US05420275
8-Amino-5-methoxy-7-phenylpyrido[3,4-d]pyridazine-1,4(2H,3H)dione (L-013)
To 0.8 g of 3-amino-4,5-dimethoxycarbonyl-6-methoxy-2-phenylpyridine was added 4 ml of hydrazine monohydrate. The mixture was heated at 100° C. in a stream of nitrogen for 1 hour. Under ice-cooling, water was added to the reaction mixture, followed by neutralization with hydrochloric acid for adjustment to pH 3. The resulting yellow crystalline precipitate was collected by filtration.

reactant | 3-amino-4,5-dimethoxycarbonyl-6-methoxy-2-phenylpyridine | 0.8 g | NC=1C(=NC(=C(C1C(=O)OC)C(=O)OC)OC)C1=CC=CC=C1 | C16H16N2O5
reactant | hydrazine monohydrate | 4 ml | O.NN
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 8-Amino-5-methoxy-7-phenylpyrido[3,4-d]pyridazine-1,4(2H,3H)dione | NC1=C(N=C(C=2C(NNC(C21)=O)=O)OC)C2=CC=CC=C2 | C14H12N4O3
